US05753657
A suspension of 5.25 g of 10-(E-hydroxy-imino)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one and 2.9 g of zinc powder in 100 ml of acetic acid is heated for 2 hours at a temperature between 80° C. and 90° C. After addition of 100 ml of acetic acid, the mixture is filtered and the filtrate is concentrated to dryness under reduced pressure (10 mmHg; 2 kPa) at 65° C. The product obtained (3.8 g) is suspended in 100 ml of distilled water, filtered, washed with 10 ml of distilled water and with 10 ml of acetone and then dried under reduced pressure (15 mmHg; 2 kPa) at 20° C. The product obtained (2 g) is dissolved in 60 ml of boiling dimethylformamide and, after addition of 0.1 g of decolorizing charcoal, the solution is filtered while hot. The filter is washed with 10 ml of boiling dimethylformamide and the filtrate and the combined washings are then stored for 4 hours at a temperature in the region of 20° C. The crystals formed are separated out by filtration, washed successively with 10 ml of dimethylformamide, 10 ml of distilled water and 10 ml of acetone and dried to dryness under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 0.43 g of 10-acetamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is thus obtained, decomposing without melting at 330° C. [N.M.R. spectrum: (200 MHz; DMSO d6 ; δ in ppm): 2.00 (s, 3H: --CO--CH3); 6.13 (d, J=8.5 Hz, 1H: CH--N); 7.35 and 7.48 (2t, J=7.5 Hz, 1H each: --H7 and --H8); 7.48 and 7.85 (2d, J=7.5 Hz, 1H each: --H6 and --H9); 7.58 and 7.65 (2s broad, 1H each: --H of the imidazole); 8.58 (d, J=8.5 Hz, 1H: --NH--COCH3); 12.50 (cplx, 1H: --NH--)].

reactant | 10-(E-hydroxy-imino)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 5.25 g | O\N=C\1/C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C13H8N4O2
reactant | charcoal | 0.1 g | C | CH4
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 2.9 g | [Zn] | Zn
product | 10-acetamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.43 g | C(C)(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C15H12N4O2
